US07226923B2
Bromo-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid ethyl ester
Concentrated sulfuric acid (40 ml) was added to a stirred solution of 1-Bromo-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid (85 g, 0.32 mol) in ethanol (500 ml) and the mixture was heated to reflux for 48 hours. After this time, the reaction mixture was cooled and the resulting precipitate was filtered. The precipitate was partitioned between ethyl acetate (1 L) and saturated NaHCO3 (500 ml), the organic layer was separated and washed with water (500 ml) before being dried (MgSO4), filtered and concentrated under vacuum to give the title compound (30 g, 31% yield) as a white solid. MS (ESI+)=(M+H)+ 297 & 299

reactant | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1-Bromo-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid | 0.32 mol, 85 g | BrC1=NNC(C2=CC(=CC=C12)C(=O)O)=O | C9H5BrN2O3
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | Bromo-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid ethyl ester | 30 g, 31% yield | C(C)OC(=O)C=1C=C2C(NN=C(C2=CC1)Br)=O | C11H9BrN2O3
